US04332829
Preparation of Methylthiomethyl 2-Hexenoate
This product was prepared according to the procedure described in Example 1, by reacting 2-hexenoic acid with chloromethyl methyl sulfide in the presence of one equivalent of triethylamine; b.p. 75°-76° C./2 mm Hg, nD20 1.4836.

reactant | 2-hexenoic acid | C(C=CCCC)(=O)O | C6H10O2
reactant | chloromethyl methyl sulfide | CSCCl | C2H5ClS
reactant | triethylamine | one equivalent | C(C)N(CC)CC | C6H15N
product | Methylthiomethyl 2-Hexenoate | C(C=CCCC)(=O)OCSC | C8H14O2S
